Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Carotid Stenosis
 
Major Surgical or Invasive Procedure:
___: Left Carotid Endarterectomy 

 
History of Present Illness:
Mr. ___ is a ___ year-old male who presents as referral to 
___ Vascular Surgery clinic from ___ by his PCP ___. 
___ 80% left-sided carotid artery stenosis found on 
duplex ultrasound. He has a previously known occlusion of his 
right ICA found ___ years prior. Per the patient, he has been 
asymptomatic, however, he endorses that 1 day ago while shopping 
he experienced acute onset RUE weakness lasting 20 minutes, 
which then resolved spontaneously. He states he feels "great" 
today and has no acute complaints. He denies any prior episodes 
of ___ weakness, amaurosis fugax, dysarthria, or aphasia. 
He takes daily aspirin and was started on atorvastatin 40 mg 1 
day ago by his PCP. Given, recent left-sided TIA and severe 
bilateral CAS, he is being admitted for further workup and 
treatment.
 
Past Medical History:
HTN, COPD, hypothyroidism, GERD, blocked lacrimal ducts, 
reactive airway disease, thyroid cancer, possible aortic arch 
dissection, sleep disorder

 
Social History:
___
Family History:
Diabetes in father and brother. Cancer(unspecified) in mother.

 
Physical Exam:
VS: T 98.8, BP 121/47, HR 67, RR 20, O2 Sat% 96, Weight 153, 
Height: 65, BMI 25.5, Pain Score 0.
General: A+O x3, lying comfortably in hospital bed, NAD
HEENT: normocephalic, skin anicteric, PERRL, MMM, no
lymphadenopathy appreciated. L neck incision nonerythematous 
with steri strips applied. No swelling, or evidence of hematoma.
CV: RRR, no carotid bruits
Lungs: CTAB, breathing unlabored
Abd: soft, non-tender, non-distended
Ext: Warm, well perfused
Neuro: CN ___ intact; b/l ___ and ___ motor strength ___, 
sensation intact
Pulses: 2+ radial pulses bilaterally
 
Pertinent Results:
___ 05:09AM BLOOD WBC-8.6 RBC-3.76* Hgb-12.0* Hct-34.0* 
MCV-90 MCH-31.9 MCHC-35.3 RDW-13.0 RDWSD-42.5 Plt ___
___ 05:09AM BLOOD Glucose-102* UreaN-15 Creat-1.0 Na-142 
K-4.4 Cl-105 HCO3-24 AnGap-13
___ 05:09AM BLOOD Calcium-7.2* Phos-3.6 Mg-1.7

___ CTA head/neck
IMPRESSION: 
1. Chronic lacune involving the head of the left caudate 
nucleus, the anterior limb of the internal capsule and the left 
putamen. 
2. Complete occlusion of the right internal carotid artery at 
its origin,  unchanged since the MRA of ___. 
3. Stenosis of the proximal left internal carotid artery due to 
predominantly  noncalcified plaque, new since the study of 
___. 
4. Bilateral stenoses at the vertebral artery origins, more 
severe on the  right than left. 
5. Patent but caliber of the clinoid right internal carotid 
artery with  reconstitution via the ophthalmic artery. 
6. Intracranial atheromatous disease involving the right 
posterior cerebral artery. 

___ CT Chest 
IMPRESSION: 
1. Again seen is sequela of asbestosis with right pleural 
thickening.  No  pneumothorax.  No focal consolidation. 
2. Normal cardiomediastinal silhouette. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with symptomatic L carotid artery 
stenosis, who was admitted directly from clinic to ___ for 
further workup with CTA head/neck on ___. He underwent L 
CEA with Dr. ___ on ___. For full details of 
the surgical procedure, please see the dictated operative 
report. 

He tolerated the procedure well without complications. 
Post-operatively, he remained neurologically intact, his blood 
pressure was well controlled with his home medications, 
amlodipine and propranolol. His pain was well controlled with 
Tylenol prn and one dose of oxycodone 5mg. He was 
hemodynamically stable, voiding spontaneously, tolerating normal 
diet, ambulating without difficulty. 

Patient should follow up with Dr. ___ as scheduled with 
a carotid duplex ultrasound and an office visit in 4 weeks.

Patient should follow up with his PCP.

Patient is discharged home with ___ services for blood pressure 
monitoring with SBP goal <140 given his high risk of 
hyperperfusion syndrome. He understands that if it is above 140 
on his own automatic BP cuff multiple times to contact his PCP 
for possible medication adjustment. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Propranolol 80 mg PO ONCE 
6. Ranitidine 300 mg PO DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Aspirin 81 mg PO DAILY 
9. Cyanocobalamin 1000 mcg PO BID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *oxycodone 5 mg 1 tablet(s) by mouth q6 Disp #*8 Tablet 
Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Cyanocobalamin 1000 mcg PO BID  
7.  Levothyroxine Sodium 137 mcg PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  Propranolol 80 mg PO ONCE  
10.  Ranitidine 300 mg PO DAILY  
11.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
CAROTID STENOSIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Carotid Endarterectomy Surgery Discharge Instructions 

WHAT TO EXPECT: 
1. Surgical Incision: 
• It is normal to have some swelling and feel a firm ridge along 
the incision 
• Your incision may be slightly red and raised, it may feel 
irritated from the staples 
2. You may have a sore throat and/or mild hoarseness 
• Try warm tea, throat lozenges or cool/cold beverages 
3. You may have a mild headache, especially on the side of your 
surgery 
• Try ibuprofen, acetaminophen, or your discharge pain 
medication 
• If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office 
4. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• You may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away! 
5. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals 
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication 

MEDICATION: 
• Take all of your medications as prescribed in your discharge 

ACTIVITIES: 
• No driving until post-op visit and you are no longer taking 
pain medications 
• No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit 
• You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry) 
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area 

CALL THE OFFICE FOR: ___ 
• Changes in vision (loss of vision, blurring, double vision, 
half vision) 
• Slurring of speech or difficulty finding correct words to use 
• Severe headache or worsening headache not controlled by pain 
medication 
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg 
• Trouble swallowing, breathing, or talking 
• Temperature greater than 101.5F for 24 hours 
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions 
 
Followup Instructions:
___